US07282588B2
4-[3-(4-aminophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(dimethylaminomethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine
To a stirred solution of 4-[3-(4-nitrophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(dimethylaminomethyl)phenyl]-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine (1.1 mmol) in HOAc (20 mL) was added portionwise zinc dust (8.0 mmol) over 5 minutes. The reaction was stirred at room temperature for 1 h, filtered through a pad of Celite, rinsed with acetic acid, and concentrated to dryness under vacuum. The residue was re-evaporated several times from methanol/toluene to remove the excess acetic acid, taken up in methanol (35 mL) and treated with 6 N sodium hydroxide (1.5 mL). The reaction mixture was stirred and heated at 70° C. for 8 h. After cooling to room temperature the reaction was concentrated under vacuum, triturated with cold water, filtered, washed with water, and dried under vacuum to give the crude product as a pale orange solid: ESMS [M+H]+: 437.2

reactant | 4-[3-(4-nitrophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(dimethylaminomethyl)phenyl]-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine | 1.1 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)N(C(=C2)C2=CC(=CC=C2)CN(C)C)S(=O)(=O)C2=CC=CC=C2)CC | C33H30N6O4S
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
catalyst | zinc | 8.0 mmol | [Zn] | Zn
product | 4-[3-(4-aminophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(dimethylaminomethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine | NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)CN(C)C)CC | C27H28N6
